US07288674B2
Under a nitrogen atmosphere, 1.5 g of (S)-1-amino-1-(2-naphthyl)-2-methyl-2-propanol, 0.84 g of triethylamine (dehydrated), and 13 mL of dichloromethane (dehydrated) were mixed and then cooled to an inner temperature of −10° C. 0.6 g of dimethylmalonic acid dichloride was added dropwise thereto over 3 minutes. The resulting mixture was warmed to room temperature. The mixture was stirred as such for 7 hours to effect reaction. After completion of the reaction, 20 mL of an aqueous saturated ammonium chloride solution was added thereto to separate into layers. The organic layer obtained was washed three times with 25 mL of water and concentrated. The concentrated residue was dried under reduced pressure at an inner temperature of 40° C. to obtain 1.8 g of N,N′-bis[(1S)-(2-naphthyl)-2-hydroxy-2-methylpropyl]-2,2-dimethylpropane-1,3-diamide (yield: 100%).

reactant | (S)-1-amino-1-(2-naphthyl)-2-methyl-2-propanol | 1.5 g | N[C@H](C(C)(O)C)C1=CC2=CC=CC=C2C=C1 | C14H17NO
reactant | triethylamine | 0.84 g | C(C)N(CC)CC | C6H15N
reactant | dimethylmalonic acid dichloride | 0.6 g | CC(C(=O)Cl)(C(=O)Cl)C | C5H6Cl2O2
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
product | N,N′-bis[(1S)-(2-naphthyl)-2-hydroxy-2-methylpropyl]-2,2-dimethylpropane-1,3-diamide | 1.8 g, yield: 100% | C1=C(C=CC2=CC=CC=C12)[C@@H](C(C)(C)O)NC(C(C(=O)N[C@H](C(C)(O)C)C1=CC2=CC=CC=C2C=C1)(C)C)=O | C33H38N2O4
